US08067445B2
Step 1: {2′-[(Benzyl-methoxycarbonyl-amino)-methyl]-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid methyl ester
Prepared according to the procedure described in Example 23, Step 1, using the following starting materials: [2′-(benzylamino-methyl)-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid methyl ester and methyl chloroformate.

reactant | [2′-(benzylamino-methyl)-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid methyl ester | COC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CNCC1=CC=CC=C1)=O | C25H24F3NO3
reactant | methyl chloroformate | ClC(=O)OC | C2H3ClO2
product | {2′-[(Benzyl-methoxycarbonyl-amino)-methyl]-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid methyl ester | COC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CN(C(=O)OC)CC1=CC=CC=C1)=O | C27H26F3NO5
